Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
gunshot wound to abdomen
 
Major Surgical or Invasive Procedure:
Exploratory laparotomy and repair of gunshot wound to the 
stomach and jejunum.

 
History of Present Illness:
Recharge is a ___ year old male who was medflighted from scene to 
___ after sustaining a single small caliber gunshot wound to 
his LLQ.  He was taken emergently to the OR.  

He lives in ___, but along with his mother, was visiting his 
two sisters in ___.  The night of the incident, the pt was 
with his cousins, + ETOH, ___ was ___ in the ER, when his group 
was approached by several men.  He heard a shot and the next 
thing he remembers was being in the helicopter.  
 
Past Medical History:
Laparoscopic appendectomy
 
Social History:
___
Family History:
NC
 
Physical Exam:
PE: Temp: 97.8F   HR 88  BP 108/80  RR 16  O2 Sat 97%RA
Gen: NAD
HEENT: PERRL, EOMI, sclera anicteric
CV: RRR
Pulm: Moving air well, some occas coarse breath sounds at left 
base
Abd: soft, incision clead, dry, intact. Staples in place.  
Ext: 2+pulses throughout, no c/ce

 
Pertinent Results:
___ 12:48AM BLOOD WBC-13.0* RBC-4.28* Hgb-12.5* Hct-36.9* 
MCV-86 MCH-29.1 MCHC-33.8 RDW-13.7 Plt ___
___ 03:45AM BLOOD WBC-19.0* RBC-4.00* Hgb-11.6* Hct-34.9* 
MCV-87 MCH-29.1 MCHC-33.3 RDW-13.9 Plt ___
___ 08:11AM BLOOD Hct-33.1*
___ 06:02AM BLOOD WBC-15.7* RBC-4.22* Hgb-12.4* Hct-36.3* 
MCV-86 MCH-29.3 MCHC-34.2 RDW-13.4 Plt ___
___ 07:01PM BLOOD WBC-16.9* RBC-3.97* Hgb-11.9* Hct-34.5* 
MCV-87 MCH-29.8 MCHC-34.4 RDW-13.6 Plt ___
___ 06:05AM BLOOD WBC-13.6* RBC-3.76* Hgb-11.1* Hct-32.7* 
MCV-87 MCH-29.6 MCHC-34.1 RDW-13.6 Plt ___
___ 06:50AM BLOOD WBC-10.2 RBC-3.62* Hgb-10.5* Hct-31.3* 
MCV-87 MCH-29.0 MCHC-33.5 RDW-13.3 Plt ___
___ 03:45AM BLOOD ___ PTT-29.0 ___
___ 12:48AM BLOOD Glucose-117* UreaN-12 Creat-0.8 Na-146* 
K-3.0* Cl-108 HCO3-22 AnGap-19
___ 07:35PM BLOOD Glucose-128* UreaN-12 Creat-0.8 Na-137 
K-3.8 Cl-101 HCO3-27 AnGap-13
___ 03:45AM BLOOD Calcium-8.9 Phos-5.2* Mg-1.5
___ 07:35PM BLOOD Calcium-8.8 Phos-2.6* Mg-2.0
___ 12:48AM BLOOD ASA-NEG Ethanol-67* Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
 
Brief Hospital Course:
The pt was medflighted from the scene and was taken emergently 
to the operating room, discovering a GSW through stomach and 
into jejunum, with injury to the transverse mesocolon, jejunum 
distal to ligament of treitz as well as a retroperitoneal 
hematoma

anterior and posterior gastrostomy and jejunostomy.  These were 
repaired primarily.  He was also noted to have a small 
retroperitoneal hematoma.  Postoperatively, he did well and was 
transferred to the floor from the trauma ICU on POD 1.   

On a CT scan with contrast done to locate the bullet he was 
noted to have an 8 x 10mm left renal pseudoaneurysm.  He was 
seen by vascular surgery, but no intervention was required.  

Complicating the pt's stay was the development of fevers and 
left lobe consolidation thought to be secondary to aspiration 
pneumonia.  He was started a 10 day course of levaquin.  By time 
of discharge, he was afebrile, tolerating a regular diet, pain 
was controlled with po pain medicine, and able to ambulate.  He 
was discharged home to his sister's house.  He will follow up in 
the trauma clinic but will most likely return to ___ after 
that.  

Several staples were removed prior to discharge.  The incision 
was clean, dry, and intact without signs of infection.  
 
Medications on Admission:
None
 
Discharge Medications:
1. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day.
Disp:*60 Capsule(s)* Refills:*0*
2. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.
Disp:*60 Tablet(s)* Refills:*0*
3. Famotidine 20 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).
Disp:*60 Tablet(s)* Refills:*0*
4. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain.
Disp:*25 Tablet(s)* Refills:*0*
5. Levaquin 750 mg Tablet Sig: One (1) Tablet PO once a day for 
6 days.
Disp:*6 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gunshot wound to abdomen
Pneumonia

 
Discharge Condition:
Stable, afebrile, tolerating a regular diet

 
Discharge Instructions:
You were admitted to the hospital after you suffered a gunshot 
wound to your abdomen and had emergency surgery.  While in the 
hospital, you developed a pneumonia and you were treated with 
antibiotics.  You will need to continue the antibiotic for 
several days after discharge.  

For pain, you can take tylenol or ibuprofen.  For severe pain, 
you can take the prescription medication, percocet.  If you take 
the percocet, please do not drive or drink alcohol.  Also, you 
should not take tylenol with percocet because percocet already 
contains tylenol.  

Several of your staples were removed.  Your incision was then 
closed with sticky tape.  You can get this wet but please do not 
soak in a tub or pool.  The tapes will fall off on their own.  

Please return call your doctor or return to the ER if you 
develop shortness of breath, chest pain, bloody cough, nausea or 
vomiting, fever, or other new or concerning symptoms.  
 
Followup Instructions:
___